US07160901B2
d. 1-acetyl-5-phenylsulphonylamino-2-indolinone
20.0 g (105 mmol) of 1-acetyl-5-amino-2-indolinone are placed in 200 ml of pyridine, combined with 15.3 ml (120 mmol) of benzenesulphonic acid chloride while cooling with ice and stirred for 2 hours. Then the mixture is poured onto 1.8 l of water and suction filtered. The crude product is stirred into acetone, suction filtered and dried.

reactant | 1-acetyl-5-amino-2-indolinone | 105 mmol, 20.0 g | C(C)(=O)N1C(CC2=CC(=CC=C12)N)=O | C10H10N2O2
reactant | benzenesulphonic acid chloride | 120 mmol, 15.3 ml | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
reactant | water | 1.8 l | O | H2O
solvent | pyridine | 200 ml | N1=CC=CC=C1 | C5H5N
product | 1-acetyl-5-phenylsulphonylamino-2-indolinone | C(C)(=O)N1C(CC2=CC(=CC=C12)NS(=O)(=O)C1=CC=CC=C1)=O | C16H14N2O4S
